US08735384B2
Triflic anhydride (0.18 mL, 1.037 mmol) was added via syringe over 1 min to a stirred mixture of 2-bromo-3-methyl-N-phenethylbenzamide (0.30 g, 0.943 mmol) and 2-chloropyridine (0.11 mL, 1.131 mmol) in DCM (4.7 mL) at −78° C. The reaction mixture was stirred at −78° C. for 5 min, then placed in an ice-water bath and warmed to 0° C. After stirring another 5 min, the solution was allowed to warm to RT and then placed in a pre-heated block and stirred at 45° for 2 h. The reaction mixture was allowed to cool to RT, then it was diluted with 1N NaOH (3 mL) and extracted with DCM (15 mL). The organic extract was washed with saturated aqueous NaCl (2×15 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as a light-yellow oil. The crude material was absorbed onto a plug of silica gel and purified by column chromatography eluting with a gradient of 1-10% MeOH/DCM to provide 1-(2-bromo-3-methylphenyl)-3,4-dihydroisoquinoline as off-white glass.

reactant | Triflic anhydride | 1.037 mmol, 0.18 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-bromo-3-methyl-N-phenethylbenzamide | 0.943 mmol, 0.30 g | BrC1=C(C(=O)NCCC2=CC=CC=C2)C=CC=C1C | C16H16BrNO
reactant | 2-chloropyridine | 1.131 mmol, 0.11 mL | ClC1=NC=CC=C1 | C5H4ClN
solvent | DCM | 4.7 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1N, 3 mL | [OH-].[Na+]
product | 1-(2-bromo-3-methylphenyl)-3,4-dihydroisoquinoline | BrC1=C(C=CC=C1C)C1=NCCC2=CC=CC=C12 | C16H14BrN
